US09376442B2
tert-butyl (cis-4-{[(4-[2-(cyclopropylmethoxy)-5-ethylphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}cyclohexyl)carbamate
Starting from 4-[2-(cyclopropylmethoxy)-5-ethylphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.c14) and commercially available tert-butyl cis-(4-amino-cyclohexyl)-carbamate the title compound is obtained as pale yellow foam.

reactant | 4-[2-(cyclopropylmethoxy)-5-ethylphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=C(C=C1)CC)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C26H35N3O4Si
reactant | tert-butyl cis-(4-amino-cyclohexyl)-carbamate | N[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
product | tert-butyl (cis-4-{[(4-[2-(cyclopropylmethoxy)-5-ethylphenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}cyclohexyl)carbamate | C1(CC1)COC1=C(C=C(C=C1)CC)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)N[C@H]2CC[C@H](CC2)NC(OC(C)(C)C)=O | C37H55N5O5Si
